US06426354B1
19.0 mL of 1.0 M DIBAL-H solution in toluene is added slowly to a solution of 1.63 g (7.5 mmol) of 4-methyl-2-phenyl-oxazole-5-carboxylic acid methyl ester (J. Chem. Soc., Chem. Comm. 1995, 22, 2335) in 30 mL of THF at −78° C. The cooling bath is removed, and the reaction mixture is stirred overnight. The reaction mixture is cooled to −78° C. and quenched with 9 mL of MeOH. The cooling bath is removed, and 9 mL of brine and 6.5 g of Na2SO4 are added, and the reaction mixture is stirred vigorously for 2 h, and then filtered off, and concentrated in vacuo to produce (4-methyl-2-phenyl-oxazol-5-yl)-methanol as a solid; 1H NMR (250 MHz, CDCl3) δ7.93-8.01 (m, 2H), 7.37-7.43 (m, 3H), 4.65 (s, 2H), 2.61 (br, s, 1H), 2.18 (s, 3H).

reactant | DIBAL-H | 1.0 M, 19.0 mL | CC(C)C[AlH]CC(C)C
reactant | 4-methyl-2-phenyl-oxazole-5-carboxylic acid methyl ester | 7.5 mmol, 1.63 g | COC(=O)C1=C(N=C(O1)C1=CC=CC=C1)C | C12H11NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-methyl-2-phenyl-oxazol-5-yl)-methanol | CC=1N=C(OC1CO)C1=CC=CC=C1 | C11H11NO2
